US07119205B2
4-Hydroxy-6-oxo-3-[4-(1H-pyrazol-3-yl)-phenyl]-6,7-dihydro-thieno[2,3-b]pyridine-5-carbonitrile
To a suspension of 3-(4-iodo-phenyl)-4-hydroxy-6-oxo-6,7-dihydro-thieno[2,3-b]pyridine-5-carbonitrile (60 mg, 0.15 mmol) and MgO (18 mg, 0.45 mmol) in 2 mL DMF and 2 mL dioxane, was added Cs2CO3 (0.45 mL, 1M solution in H2O), followed by 3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole (38 mg, 0.2 mmol), and Pd(PPh3)4 (10 mg, 0.008 mmol). The reaction was heated to 130° C. using microwave reactor for 15 min, filtered, concentrated and purified by reverse phase HPLC to give the titled compound. MS (ESI) m/e 335 (M+H)+; 1H NMR (500 MHz, DMSO-d6): δ 6.61 (s, 1H), 7.00 (s, 1H), 7.43 (d, J=8.42 Hz, 2H), 7.49 (d, J=8.42 Hz, 2H), 8.04 (s, 1H).

reactant | 3-(4-iodo-phenyl)-4-hydroxy-6-oxo-6,7-dihydro-thieno[2,3-b]pyridine-5-carbonitrile | 0.15 mmol, 60 mg | IC1=CC=C(C=C1)C1=CSC=2NC(C(=C(C21)O)C#N)=O | C14H7IN2O2S
reactant | Cs2CO3 | 1M, 0.45 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | 0.2 mmol, 38 mg | CC1(OB(OC1(C)C)C1=NNC=C1)C | C9H15BN2O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.008 mmol, 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Hydroxy-6-oxo-3-[4-(1H-pyrazol-3-yl)-phenyl]-6,7-dihydro-thieno[2,3-b]pyridine-5-carbonitrile | OC=1C2=C(NC(C1C#N)=O)SC=C2C2=CC=C(C=C2)C2=NNC=C2 | C17H10N4O2S
